US04032525
1-[2,8-dichloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine is reacted with 3-(2-chloro-ethyl)-2-oxazolidinone in the manner described in Example 1, and there is obtained 3-[2-{4-[2,8-dichloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-ethyl]-2-oxazolidinone dihydrochloride having a melting point of 187°-188° C. (with decomposition).

reactant | 1-[2,8-dichloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine | ClC1=CC2=C(OC3=C(C(C2)N2CCNCC2)C=C(C=C3)Cl)C=C1 | C18H18Cl2N2O
reactant | 3-(2-chloro-ethyl)-2-oxazolidinone | ClCCN1C(OCC1)=O | C5H8ClNO2
product | 3-[2-{4-[2,8-dichloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-ethyl]-2-oxazolidinone dihydrochloride | Cl.Cl.ClC1=CC2=C(OC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=C(C=C3)Cl)C=C1 | InChI=1S/C23H25Cl2N3O3.2ClH/c24-17-1-3-21-16(13-17)14-20(19-15-18(25)2-4-22(19)31-21)27-8-5-26(6-9-27)7-10-28-11-12-30-23(28)29;;/h1-4,13,15,20H,5-12,14H2;2*1H
